*
*NGSPICE simulation script
*    Circuit_t_1
*

.options savecurrents


*Description of the circuit

*Independent Voltage source
Va 1 0 5.23936486299

*Independent Current source
Id 7 5 1.03899051042m

*Dummy voltage source to measure the current in R6
Vo 6 8 0

*2 controled elements
H1 4 7 Vo 8.25247516035K
G1 5 3 2 4 7.31630468385m

*Resist
R1 1 2 1.04309563061K
R2 3 2 2.01744623407K
R3 2 4 3.13691375104K
R4 4 0 4.15429988186K
R5 4 5 3.07915362723K
R6 0 6 2.02592738504K
R7 8 7 1.04226655522K

*Comandos

.control


op

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc

.end


